US06821967B2
b. 1-morpholin-4-yl-1-{9-[4-(4-quinolin-2-yl-piperazin-1-yl)-butyl]-9H-xanthene-9-yl}-methanone
Prepared analogously to Example 1 from 1-[9-(4-bromo-butyl)-9H-xanthen-9-yl]-1-morpholin-4-yl-methanone and 2-piperazin-1-yl-quinoline.

reactant | 1-[9-(4-bromo-butyl)-9H-xanthen-9-yl]-1-morpholin-4-yl-methanone | BrCCCCC1(C2=CC=CC=C2OC=2C=CC=CC12)C(=O)N1CCOCC1 | C22H24BrNO3
reactant | 2-piperazin-1-yl-quinoline | N1(CCNCC1)C1=NC2=CC=CC=C2C=C1 | C13H15N3
product | 1-morpholin-4-yl-1-{9-[4-(4-quinolin-2-yl-piperazin-1-yl)-butyl]-9H-xanthene-9-yl}-methanone | N1(CCOCC1)C(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C35H38N4O3
